US06420426B1
A solution of 2-hydroxy-4-methoxybenzoic acid (2.04 g, 12.2 mmol) in tetrahydrofuran (20 mL, 0.6 M) was cooled to 0° C. After being treated with diisopropylethylamine (4.4 mL, 25.3 mmol) and ethyl chloroformate (2.4 mL, 25.1 mmol), the mixture was stirred at room temperature for 1 h and subsequently treater with a solution of 2-fluoro-4-bromobenzylamine (2.92 g, 12.1 mmol) and diisopropylethylamine (4.4 mL, 25.3 mmol) in tetrahydrofuran (15 mL). After stirring at room temperature for 22 h, the reaction mixture was diluted ethyl acetate and successively washed with 2 N HCl, saturated aq NaHCO3 and saturated aq NaCl. The organic layer was dried over Na2SO4, filtered and concentrated. The crude solid was purified by recrystallization with heptane and ethyl acetate to give 3-(4-bromo-2-fluoro-benzyl)-7-methoxy benzo[e][1,3]oxazine-2,4-dione (1.68 g, 36%): 1H NMR (DMSO-d6, 300 MHz) δ 7.87 (d, J=8.4 Hz, 1H), 7.53 (dd, J1=10.5 Hz, J2=1.1 Hz, 1H), 7.33-7.34 (m, 2H), 7.03-6.99 (m, 2H), 5.02 (s, 2H), 3.87 (s, 3H).

reactant | 2-hydroxy-4-methoxybenzoic acid | 12.2 mmol, 2.04 g | OC1=C(C(=O)O)C=CC(=C1)OC | C8H8O4
reactant | diisopropylethylamine | 25.3 mmol, 4.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 25.1 mmol, 2.4 mL | ClC(=O)OCC | C3H5ClO2
reactant | 2-fluoro-4-bromobenzylamine | 12.1 mmol, 2.92 g | FC1=C(CN)C=CC(=C1)Br | C7H7BrFN
reactant | diisopropylethylamine | 25.3 mmol, 4.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 0.6 M, 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-bromo-2-fluoro-benzyl)-7-methoxy benzo[e][1,3]oxazine-2,4-dione | 1.68 g, 36% | BrC1=CC(=C(CN2C(OC3=C(C2=O)C=CC(=C3)OC)=O)C=C1)F | C16H11BrFNO4
